US08022223B2
1-(3-(5-(3-methoxyphenylthio)-6-(3-(tetrahydrofuran-2-yl)-1,2,4-thiadiazol-5-ylamino)pyridin-3-yloxy)phenyl)ethanol
A 10 mL round-bottomed flask was charged with 5-(3-bromophenoxy)-3-(3-methoxyphenylthio)-N-(3-(tetrahydrofuran-2-yl)-1,2,4-thiadiazol-5-yl)pyridin-2-amine (43.3 mg, 0.077 mmol) and THF (2 mL). The reaction was cooled to −78° C. and methyllithium (0.058 mL, 0.093 mmol) was added and stirred for 5 min. Butyllithium (0.037 mL, 0.093 mmol) was added and the reaction was stirred for 5 min. Acetaldehyde (0.0086 mL, 0.16 mmol) was added and the reaction warmed to room temperature and poured into saturated aqueous NH4Cl and extracted with EtOAc. The organic layer was dried with sodium sulfate, filtered and concentrated. The residue was purified on silica gel (35 to 100% ethyl acetate in hexanes) to afford the title compound (4.5 mg, 11.1% yield). 1H NMR (CDCl3) δ 9.26 (bs, 1H), 8.25 (d, 1H), 7.63 (d, 1H), 7.33 (t, 1H), 7.21 (t, 1H), 7.14 (d, 1H), 7.05 (m, 1H), 6.90 (dd, 1H), 6.76 (m, 2H), 6.70 (m, 1H), 4.89 (q, 1H), 4.15 (t, 1H), 4.03 (m, 2H), 3.90 (m, 1H), 3.77 (s, 3H), 3.64 (m, 1H), 2.34 (q, 2H), 1.47 (d, 3H). Mass spectrum (apci) m/z=523.2 (M+H).

reactant | 5-(3-bromophenoxy)-3-(3-methoxyphenylthio)-N-(3-(tetrahydrofuran-2-yl)-1,2,4-thiadiazol-5-yl)pyridin-2-amine | 0.077 mmol, 43.3 mg | BrC=1C=C(OC=2C=C(C(=NC2)NC2=NC(=NS2)C2OCCC2)SC2=CC(=CC=C2)OC)C=CC1 | C24H21BrN4O3S2
reactant | methyllithium | 0.093 mmol, 0.058 mL | C[Li]
reactant | Butyllithium | 0.093 mmol, 0.037 mL | C(CCC)[Li]
reactant | Acetaldehyde | 0.16 mmol, 0.0086 mL | C(C)=O | C2H4O
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 1-(3-(5-(3-methoxyphenylthio)-6-(3-(tetrahydrofuran-2-yl)-1,2,4-thiadiazol-5-ylamino)pyridin-3-yloxy)phenyl)ethanol | 4.5 mg, 11.1% yield | COC=1C=C(C=CC1)SC=1C=C(C=NC1NC1=NC(=NS1)C1OCCC1)OC=1C=C(C=CC1)C(C)O | C26H26N4O4S2
